US06323235B1
Methyl 7-methoxy-3-oxo-2-(2-propenyl)-2,3-dihydrobenzofuran-2-carboxylate
Methyl 3-methoxy-2-(methoxycarbonylmethoxy)benzoate (19.39 g) was dissolved in toluene (200 ml). To this solution, sodium hydride (3.36 g) was added and the resultant was stirred at room temperature for 20 minutes, followed by refluxing the mixture for 2 hours. Toluene was evaporated off under reduced pressure and the residue was dissolved in DMF (150 ml). To this solution, acetic acid (2 ml) was added and the solvent was evaporated off under reduced pressure. The residue was dissolved in toluene (200 ml) and the solution was refluxed for 1 hour. The reaction solution was cooled to room temperature and poured into water (150 ml), followed by separating the organic layer. The aqueous layer was extracted with ethyl acetate (100 ml) and the organic layers were combined. The resultant was washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing sodium sulfate by filtration, the solvent was evaporated off, and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desire compound (18.42 g, yield: 92%).

reactant | Methyl 3-methoxy-2-(methoxycarbonylmethoxy)benzoate | 19.39 g | COC=1C(=C(C(=O)OC)C=CC1)OCC(=O)OC | C12H14O6
reactant | sodium hydride | 3.36 g | [H-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 7-methoxy-3-oxo-2-(2-propenyl)-2,3-dihydrobenzofuran-2-carboxylate | 18.42 g, yield: 92% | COC1=CC=CC=2C(C(OC21)(C(=O)OC)CC=C)=O | C14H14O5
